US04231782
Ethyl N-carbobenzoxy-N-(dichlorophosphonomethyl)glycinate (11.7 g., 0.032 mole) and 2-cyanoethanol (4.52 g., 0.064 mole) were dissolved in tetrahydrofuran (50 ml). To this solution was added triethylamine (6.42 g., 0.064 mole) dissolved in 25 ml. of tetrahydrofuran. The resultant solution was stirred overnight at room temperature. The reaction mixture was then filtered and the filtrate concentrated in vacuo to yield ethyl N-carbobenzoxy-N-[bis(β-cyanoethoxy)phosphonomethyl]glycinate as a yellow oil, ND25 =1.05 and having the following analysis.

reactant | Ethyl N-carbobenzoxy-N-(dichlorophosphonomethyl)glycinate | 0.032 mole, 11.7 g | C(=O)(OCC1=CC=CC=C1)N(CC(=O)OCC)CP(=O)(OCl)OCl | C13H16Cl2NO7P
reactant | 2-cyanoethanol | 0.064 mole, 4.52 g | C(#N)CCO | C3H5NO
reactant | triethylamine | 0.064 mole, 6.42 g | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | ethyl N-carbobenzoxy-N-[bis(β-cyanoethoxy)phosphonomethyl]glycinate | C(=O)(OCC1=CC=CC=C1)N(CC(=O)OCC)CP(=O)(OOCCC#N)OOCCC#N | C19H24N3O9P
